US05891889
A mixture of 2-benzyloxy-6-methylpyridine N-oxide (3.4 g, 15.9 mmol) and acetic anhydride (125 mL) was heated under reflux for 1 h. The resulting solution was concentrated under vacuum, and the residue was partitioned between aqueous sodium bicarbonate and dichloromethane. The organic extract was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was subjected to column chromatography on silica gel eluting with 10-20% ethyl acetate in hexane gradient. Collection and concentration of appropriate fractions provided 2-acetoxymethyl-6-benzyloxypyridine as colorless oil.

reactant | 2-benzyloxy-6-methylpyridine N-oxide | 15.9 mmol, 3.4 g | C(C1=CC=CC=C1)OC1=[N+](C(=CC=C1)C)[O-] | C13H13NO2
reactant | acetic anhydride | 125 mL | C(C)(=O)OC(C)=O | C4H6O3
product | 2-acetoxymethyl-6-benzyloxypyridine | C(C)(=O)OCC1=NC(=CC=C1)OCC1=CC=CC=C1 | C15H15NO3
